US07217697B2
1-(2-Benzoyloxyethyl)-3-benzyloxy-5-isopropyl-1H-pyrazole
To a solution of 3-benzyloxy-1-(2-hydroxyethyl)-5-isopropyl-1H-pyrazole (2.41 g) in dichloromethane (45 mL) were added triethylamine (1.40 g) and benzoyl chloride (1.43 g) at 0° C., and the mixture was stirred for 30 minutes. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/6-1/1) to give the title compound (1.35 g).

reactant | 3-benzyloxy-1-(2-hydroxyethyl)-5-isopropyl-1H-pyrazole | 2.41 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(C)C)CCO | C15H20N2O2
reactant | triethylamine | 1.40 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.43 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 1-(2-Benzoyloxyethyl)-3-benzyloxy-5-isopropyl-1H-pyrazole | 1.35 g | C(C1=CC=CC=C1)(=O)OCCN1N=C(C=C1C(C)C)OCC1=CC=CC=C1 | C22H24N2O3
